US08536203B2
To a solution of 2-(4′-(benzyloxy)-3′-methoxybiphenyl-3-yl)-6-(trifluoromethyl)pyridine (1.061 g, 2.44 mmol) in dichloromethane (20 mL) cooled in an ice-water bath was added a 30% solution of hydrogen bromide in acetic acid (4 mL, 20 mmol) dropwise. The resulting solution was allowed to stir at room temperature for six hours then poured onto ice-water (100 mL). The phases were separated and the aqueous phase was extracted with dichloromethane (10 mL). The combined organic layers were washed with water and brine, then dried over anhydrous sodium sulphate and filtered. Evaporation of the solvent left a brown oil that was chromatographed over silica gel (petroleum ether/ethyl acetate, 4:1) to give 3-methoxy-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-4-ol as a clear oil, 0.547 g (65%).

reactant | 2-(4′-(benzyloxy)-3′-methoxybiphenyl-3-yl)-6-(trifluoromethyl)pyridine | 2.44 mmol, 1.061 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CC(=CC=C1)C1=NC(=CC=C1)C(F)(F)F)OC | C26H20F3NO2
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 20 mmol, 4 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-methoxy-3′-(6-(trifluoromethyl)pyridin-2-yl)biphenyl-4-ol | COC=1C=C(C=CC1O)C1=CC(=CC=C1)C1=NC(=CC=C1)C(F)(F)F | C19H14F3NO2
